US05102905
A solution of bromine (0.254 g) in acetic acid (2 ml) was added to a stirred solution of 2-methoxy-5-(nitromethylsulphonyl)thiophene (0.39 g) in acetic acid (8 ml). After 1hour the mixture was quenched with water (10 ml). The yellow precipitate was collected by filtration and recrystallised from ethanol to give 3-bromo-2-methoxy-5-(nitromethylsulphonyl)thiophene as a white solid (0.12 g) m.p. 120°-121° C.; m/e (electron impact): 315, 317 [mean M+ for Br=80 is 316]; NMR (90 MHz): 4.1 (s,3H), 5.60 (s,2H), 7.22 (s,1H); microanalysis, found: C,23.1; H,1.8; N,4.1%; C6H6BrNO5S2 requires C,22.8; H,1.9; N,4.4%.

reactant | bromine | 0.254 g | BrBr | Br2
reactant | 2-methoxy-5-(nitromethylsulphonyl)thiophene | 0.39 g | COC=1SC(=CC1)S(=O)(=O)C[N+](=O)[O-] | C6H7NO5S2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-2-methoxy-5-(nitromethylsulphonyl)thiophene | 0.12 g | BrC1=C(SC(=C1)S(=O)(=O)C[N+](=O)[O-])OC | C6H6BrNO5S2
